US06441004B1
Ethyl 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate
Powdered sodium hydroxide (0.5 g) was added in a single portion to a vigorously stirred solution of ethyl 3-bromoindole-2-carboxylate (0.3 g), 3,4-dichlorobenzyl bromide (0.32 g) and tetra-n-butylammonium hydrogensulphate (50 mg) in dichloromethane. The reaction was stirred for 3 hours then partitioned between 2M HCl and ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using isohexane-5% ethyl acetate as eluent to give the desired end product as a colourless oil (0.35 g, 73%); NMR δ(CDCl3) 1.42 (t, 3H), 4.41 (q, 2H), 5.73 (s, 2H), 6.84 (d, 1H), 7.18-7.40 (m, 5H), 7.74 (d, 1H); M/z (+) 428 (MH+), 426, 346, 159.

reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | ethyl 3-bromoindole-2-carboxylate | 0.3 g | BrC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H10BrNO2
reactant | 3,4-dichlorobenzyl bromide | 0.32 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
catalyst | tetra-n-butylammonium hydrogensulphate | 50 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 0.35 g, 73% | BrC1=C(N(C2=CC=CC=C12)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C18H14BrCl2NO2
